US07435823B2
Step (c) Preparation of 5-amino-1-methylpyridin-2(1H)-one hydrochloride
To a stirred solution of tert-butyl 1-methyl-6-oxo-1,6-dihydropyridin-3-ylcarbamate (1.20 g, 5.35 mmol) in dioxane (15 mL) at RT was added HCl (4M in dioxane, 5.35 mL, 21.4 mmol). The reaction mixture was heated at 70° C. for 9 h, cooled to RT and filtered to give the title compound.

reactant | tert-butyl 1-methyl-6-oxo-1,6-dihydropyridin-3-ylcarbamate | 5.35 mmol, 1.20 g | CN1C=C(C=CC1=O)NC(OC(C)(C)C)=O | C11H16N2O3
reactant | HCl | 21.4 mmol, 4M, 5.35 mL | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 5-amino-1-methylpyridin-2(1H)-one hydrochloride | Cl.NC=1C=CC(N(C1)C)=O | InChI=1S/C6H8N2O.ClH/c1-8-4-5(7)2-3-6(8)9;/h2-4H,7H2,1H3;1H
